US08492582B2
Trifluoroacetic acid (5 mL) was added to the obtained tert-butyl 4-phenyl-2-(6-(pyridin-4-yl)pyridine-3-carboxamido)benzoate (25 mg), followed by stirring at room temperature for 3 hours. The solvent was evaporated under reduced pressure, and water was added to the obtained residue. After adjusting the pH to 5.5 with a saturated aqueous solution of sodium bicarbonate, the solid substance was collected by filtration to obtain 20 mg of 4-phenyl-2-(6-(pyridin-4-yl)pyridine-3-carboxamido)benzoic acid as a yellow solid.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-phenyl-2-(6-(pyridin-4-yl)pyridine-3-carboxamido)benzoate | 25 mg | C1(=CC=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC(=CC1)C1=CC=NC=C1 | C28H25N3O3
product | 4-phenyl-2-(6-(pyridin-4-yl)pyridine-3-carboxamido)benzoic acid | 20 mg | C1(=CC=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC(=CC1)C1=CC=NC=C1 | C24H17N3O3
